US07842685B2
A mixture of 2-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde (22.6 mg, 61 μmol), azetidine-3-carboxylic acid (31 mg, 305 μmol), and acetic acid (28 μL, 488 μmol) in 1:1 CH2Cl2/MeOH (2.0 mL) was stirred at 25° C. for 1 h. Sodium cyanoborohydride (6.9 mg, 110 μmol) was then added, and the resulting mixture was stirred at 25° C. for 16 h. The reaction mixture was then concentrated in vacuo, dissolved in 2 mL DMSO+20 μL trifluoroacetic acid, filtered, and purified by rpHPLC (10-100% acetonitrile/water+0.1% TFA) to provide 1-((2-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-phenyl)methyl)-azetidine-3-carboxylic acid as a white solid. MS (ESI) m/z: Calculated: 455.2; Observed: 456.1 (M++1).

reactant | 2-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde | 61 μmol, 22.6 mg | CC1=C(C=O)C=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H18N2OS
reactant | azetidine-3-carboxylic acid | 305 μmol, 31 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic acid | 488 μmol, 28 μL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 110 μmol, 6.9 mg | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 MeOH | 2.0 mL | C(Cl)Cl.CO
product | 1-((2-methyl-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-phenyl)methyl)-azetidine-3-carboxylic acid | CC1=C(C=CC(=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)C(=O)O | C27H25N3O2S
